Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Primary hyperparathyroidism.

 
Major Surgical or Invasive Procedure:
Removal left-sided adenoma.

 
History of Present Illness:
The patient has well documented primary hyperparathyroidism 
witha Ca of 10.4 elevated PTH to 80 and a high urine calcium 
(479 mg/24 hr).   She may have passed gravel in her urine a year 
ago. She is on thyroid replacment for hypothyroidism. Ultrasound 
showed a left lower enlarged parathyroid.
 
Past Medical History:
PMH:hypertension
diabetes
hyperparathyroidism
hypothyroidism

PSH:C-section in ___

 
Social History:
She is of ___ descent.  She is not currently working.  She 
does not smoke.  She does not drink alcohol.  She is married.

 
Physical Exam:
VS:98.2 75 152/74 18 96%RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist, incision site 
c/d/i, no surrounding erythema or swelling
CV: RRR, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: soft, nondistended, nontender, no rebound or guarding
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 03:37PM BLOOD ___-18
___ 01:25PM BLOOD ___-97*
___ 06:05AM BLOOD Calcium-9.6
 
Brief Hospital Course:
Ms. ___ is a ___ year old woman with history of 
hyperparathyroidism who was admitted to ___ on ___ 
following scheduled left parathyroidectomy. Surgery was 
uncomplicated. Following admission her PTH was monitored and was 
found to be appropriate. Postoperatively she was able to void, 
tolerate regular diet, ambulate, and achieve adequate pain 
control on oral medications. Her surgical site remained  without 
evidence of infection or hematoma. Once she met the appropriate 
criteria she was discharged home on POD1 with scheduled follow 
up with Dr. ___ postoperative care. She was given 
instructions on wound care as well as symptoms of complications 
to look out for, of which she expressed understanding.
 
Medications on Admission:
___:
levothyroxine 50 mcg daily
losartan 25 mg daily
metformin 500 mg twice a day (1 tab. at lunch, 1 tab. at 
bedtime)
metformin 1,000 mg table morning
simvastatin 20 mg daily
cholecalciferol 2,000 unit daily
multivitamin 1 tablet daily
omega 3-dha-epa-fish oil dosage uncertain

 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain 
2. Levothyroxine Sodium 50 mcg PO DAILY 
3. Losartan Potassium 25 mg PO DAILY 
4. MetFORMIN (Glucophage) 500 mg PO BID 
5. MetFORMIN (Glucophage) 1000 mg PO QAM 
6. Omeprazole 20 mg PO DAILY 
7. OxyCODONE (Immediate Release) 5 mg PO Q4H:PRN moderate pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*25 Tablet Refills:*0
8. Simvastatin 20 mg PO QPM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Hyperparathyroidism.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
You were admitted to ___ overnight following your surgical 
procedure. You have adequate pain control and have tolerated a 
regular diet and may return home to continue your recovery.
You may resume all regular home medications, unless specifically 
advised not to take a particular medication and take any new 
medications as prescribed. You will be given a prescription for 
narcotic pain medication, take as prescribed. It is recommended 
that you take a stool softener such as Colace while taking oral 
narcotic pain medication to prevent constipation. You may also 
take acetaminophen (Tylenol) as directed, but do not exceed 4000 
mg in one day. Please get plenty of rest, continue to walk 
several times per day, and drink adequate amounts of fluids. 
Please call your surgeon or go to the emergency department if 
you have increased pain, swelling, redness, or drainage from the 
incision site. You may shower and wash incisions with a mild 
soap and warm water. Avoid swimming and baths until cleared by 
your surgeon. Gently pat the area dry. You have a neck incision 
with steri-strips in place, do not remove, they will fall off on 
their own.

Thank you for allowing us to participate in your care.
Your ___ Team
 
Followup Instructions:
___